US05608056
To a solution of (2R,4R)-1-allyloxycarbonyl-4-t-butyldimethylsilyloxy-2-{2-(5-formylimidazol-1-yl)ethyl}pyrrolidine (12.65 g) in a mixture of tetrahydrofuran (60 ml) and methanol (60 ml) was portionwise added sodium borohydride (1.17 g) with stirring under ice-cooling. The mixture was stirred at the same temperature for 1 hour. The reaction mixture was adjusted to pH 8 with 6N hydrochloric acid at the same condition. The resulting precipitates were filtered off and the filtrate was evaporated in vacuo to give a residue. The residue was chromatographed on silica gel (250 g) eluting with a mixture of chloroform and methanol (9:1, V/V). The fractions containing the desired compound were collected and evaporated in vacuo to give (2R,4R)-1-allyloxycarbonyl-4-t-butyldimethylsilyloxy-2-{2-(5-hydroxymethylimidazol-1-yl)ethyl}pyrrolidine (10.23 g).

reactant | (2R,4R)-1-allyloxycarbonyl-4-t-butyldimethylsilyloxy-2-{2-(5-formylimidazol-1-yl)ethyl}pyrrolidine | 12.65 g | C(C=C)OC(=O)N1[C@@H](C[C@H](C1)O[Si](C)(C)C(C)(C)C)CCN1C=NC=C1C=O | C20H33N3O4Si
reactant | sodium borohydride | 1.17 g | [BH4-].[Na+]
reactant | hydrochloric acid | 6N | Cl | ClH
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | methanol | 60 ml | CO | CH4O
product | (2R,4R)-1-allyloxycarbonyl-4-t-butyldimethylsilyloxy-2-{2-(5-hydroxymethylimidazol-1-yl)ethyl}pyrrolidine | 10.23 g | C(C=C)OC(=O)N1[C@@H](C[C@H](C1)O[Si](C)(C)C(C)(C)C)CCN1C=NC=C1CO | C20H35N3O4Si
